US05948781
B. 1-Adamantylisatin
Under a N2 atmosphere was added 1.97 g (15.6 mmol) of oxalyl chloride to 3 ml of dry toluene which was cooled to 0° C. To this solution was added 3.55 g (15.6 mmol) of N-1-adamantylaniline in toluene (8 ml). The reaction was allowed to stir for 30 min. at 0° C. and then heated at 65° C. for 3 hours. Additional solvent (10 ml) was added and the reaction was kept at 65° C. for 72 hours. The solvent was removed and the residue was allowed to stir at 160° C. for 5 hours. The crude reaction mixture was allowed to cool and was chromatographed on silica gel using 6:1 hexane:EtOAc to afford crude product, which was triturated with isopropyl ether (IPE) to generate 164 mg (4.4%) of 1-adamantylisatin combined with product contaminated with significant amounts of impurities.

reactant | oxalyl chloride | 15.6 mmol, 1.97 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-1-adamantylaniline | 15.6 mmol, 3.55 g | C12(CC3CC(CC(C1)C3)C2)NC2=CC=CC=C2 | C16H21N
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Adamantylisatin | C12(CC3CC(CC(C1)C3)C2)N2C(=O)C(=O)C3=CC=CC=C23 | C18H19NO2
